### PR TITLE
Bug Fix for Issues 143, 152 and 262

### LINKED ISSUE #32: [Bug] Opaque variables must be handled as free variables
We were wrongly considering opaque variables to be reduced to their default value during optimization phase.
This is not the proper semantics to consider in proof mode. Indeed, this can lead to false positive results.

E.g.,

```
opaque p : Nat → Prop
opaque q : Nat → Prop

#solve [∀ (x : Nat), q x → p x]

opaque x : Prop

#solve [x]

opaque n : Nat

#solve [n = 0]

```

### PR DESCRIPTION
**Pull request by etiennejf**
# Bug Fix for Issues 143, 152 and 262

## Description
This PR addresses issues #143, #152 and #262 and performs the following modifications:

- Smt Translation:
  - [x] Translating recursive (or even mutually) function as axioms instead of proving a `define-fun-rec` definition. This allows to break cyclic dependency during translation and avoid us from making the wrong assumptions that mutually recursive functions will share the same number of effective parameters. This covers issue #143 and #152.
  - [x] Properly handling inductive datatypes with no constructors during translation. Such datatypes are now represented by an abstract sort that does not admit any element (see issue #262)
  - [x] Properly resolving Axiom/Opaque sort types during smt translation (see issue #262)
  - [x] Considering generic types when specifying the co-domain restrictions for axiom / undeclared functions.
  - [x] Considering our z3 patch `recfun-finder` during translation. However, this options is (for now) not compatible with the "produce-proofs" options. The later has been deactivated for now.
  - [x] Restricting z3 arith non-linear options to pass test suite
  
- Test suite:
  - [x] `Issue143.lean` has been added to show that:
           - Mutually recursive functions with different arguments are now properly handled during translation.
           - Our `recfun-finder` patch on z3 is working as expected.
  - [x] `Issue152.lean` has been added to show recursion occurring in lambda terms are now properly handled during translation.
  - [x] Removing unnecessary `random-seed` options in `Issue16.lean`
  - [x] `Issue24.lean` has been modified to provide a new way of how hash functions should be axiomatized to avoid contradictory context.
  - [x] ` Issue262.lean` has been added to show that inductive datatypes with no constructors and Axiom/Opaque sort types are now properly handled during translation.

- CI:
   - [x] Considering z3 master branch for CI until new Z3 official version is out

- Issues
   Closes #143, #152 and #262. 
   
- Related Issue
   - This Blaster patch makes PR https://github.com/input-output-hk/CardanoLedgerApiBlaster/pull/7 redundant
## Checklist
- [x] All theorems valid for each formalization in CI
- [x] All the specified lean file are properly considered when compiling and verifying the formalization
- [x] Self review of the code has been done.
- [x] Reviewer has been requested.
- [ ] Reviewer has performed the following tasks
     - [ ] Ensure that all the test cases are still valid
     - [ ] Ensure that each specified lean file is properly considered in the tool chain.

### CODE REVIEW

File: Blaster/Smt/Env.lean [hunk 1]
```diff
@@ -219,7 +219,10 @@ partial def trySubmitCommand! (c : SmtCommand) (checkSuccess := true) : Translat
   let out := normalizeLine (← h.getLine)
   match out with
   | "success\n" => return ()
-  | err => throwEnvError s!"Unexpected smt error: {err} for {c}"
+  | err =>
+        IO.println f!"Smt query:"
+        (← get).smtEnv.smtCommands.forM (λ c => IO.println s!"{c}")
+        throwEnvError s!"Unexpected smt error (caca): {err} for {c}"
```
Comment (RSoulatIOHK) [inline Blaster/Smt/Env.lean:225]: caca ? 😅

File: Blaster/Smt/Translate/Quantifier.lean [hunk 2]
```diff
@@ -993,7 +1020,8 @@ where
        | throwEnvError "declareIndInst: inductive info expected for {indName}"
      if (← isEnumeration indVal) then
        -- only declare smt predicate
-       discard $ generateIndInstDecl t args (some true) typeTranslator
+       -- NOTE: Inductive data types with no constructors are considered as not inhabited
+       discard $ generateIndInstDecl t args (some !indVal.ctors.isEmpty) typeTranslator
```
Comment (RSoulatIOHK) [inline Blaster/Smt/Translate/Quantifier.lean:1024]: Need to consider co-domain restrictions, see:

```lean4
def claim := ∀ (n : Nat), n = 0 ∧ (∀ e : E, f e = e)

-- Lean proves that the claim is false.
example : ¬ claim := by
  intro h
  have impossible : (1 : Nat) = 0 := (h 1).1
  cases impossible
```

**Review by RSoulatIOHK — CHANGES_REQUESTED** [review]
Also: Need to change the README to recommend Master

File: Blaster/Smt/Env.lean (hunk 1 above)
Comment (etiennejf) [reply Blaster/Smt/Env.lean]: Has been resolved

File: Blaster/Smt/Translate/Quantifier.lean (hunk 2 above)
Comment (etiennejf) [reply Blaster/Smt/Translate/Quantifier.lean]: I've done the necessary patch and added additional examples in Issue262.lean
